US07495016B2
7.4 Preparation of 4-(4-benzyloxy-3-cyclopentyloxyphenyl) -pyrrolidin-2-one
4 g of 4-benzyl-3-[3-(4-benzyloxy-3-cyclopentyloxyphenyl)-4-nitrobutyryl]-oxazolidin-2-one was partially dissolved in 75 mL EtOAc/75 mL EtOH/75 mL dioxane. To this suspension was added a suspension of Raney Ni. The mixture was then flushed three times with H2. The mixture was then stirred under H2 at 50° C. overnight and filtered through celite. Concentration under reduced pressure and purification by column chromatography on silica gel 2.2 g of the desired product. Yield: 88%.

reactant | 4-benzyl-3-[3-(4-benzyloxy-3-cyclopentyloxyphenyl)-4-nitrobutyryl]-oxazolidin-2-one | 4 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(CC(C[N+](=O)[O-])C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC1CCCC1)=O | C32H34N2O7
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
catalyst | Ni | [Ni] | Ni
product | 4-(4-benzyloxy-3-cyclopentyloxyphenyl) -pyrrolidin-2-one | Yield: 88% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1CC(NC1)=O)OC1CCCC1 | C22H25NO3
